US05629339
5,7-bis-Propargyloxy-2-(4-methoxy-3-propargyloxyphenyl)-4H-1-benzopyran-4-one
30 g of diosmetin are alkylated with propargyl bromide under the conditions of Example 3 to yield, after recrystallisation from isopropanol, 32 g of the title compound in pure form, m.p.: 196° C.

reactant | diosmetin | 30 g | COC=1C=CC(=CC1O)C2=CC(=O)C=3C(=CC(=CC3O2)O)O | C16H12O6
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | 5,7-bis-Propargyloxy-2-(4-methoxy-3-propargyloxyphenyl)-4H-1-benzopyran-4-one | C(C#C)OC1=CC(=CC2=C1C(C=C(O2)C2=CC(=C(C=C2)OC)OCC#C)=O)OCC#C | C25H18O6
